US07176242B2
3-{[Butyl(methyl)amino]methyl}-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-5-methylbenzamide dihydrochloride
Analogous to the method in EXAMPLE SP-188, methyl 3-{[butyl(methyl)amino]methyl}-5-methylbenzoate (122 mg, 0.49 mmol) is dissolved in 2:1:1 tetrahydrofuran/methanol/water (4 mL), and lithium hydroxide monohydrate is added (41 mg, 1.0 mmol), and the reaction stirred 16 h. The solution is concentrated under reduced pressure. The residue is redissolved in DMF (5 mL), and diisopropylethylamine (350 μL, 2 mmol), HATU (240 mg, 0.63 mmol), and (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride prepared by the method in EXAMPLE SP-272 (203 mg, 0.5 mmol) are added. The reaction stirred at room temperature 16 h. The reaction mixture is diluted with ethyl acetate, washed with water, saturated sodium bicarbonate, brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 8% methanol/methylene chloride) provides the title compound as the free base. The residue is dissolved in diethyl ether (3 mL) and 1N hydrochloric acid in diethyl ether (1 mL) is added. The mixture is concentrated under reduced pressure to yield the title compound. ESI MS m/z 552.3 [M+H]+.

reactant | methyl 3-{[butyl(methyl)amino]methyl}-5-methylbenzoate | 0.49 mmol, 122 mg | C(CCC)N(C)CC=1C=C(C(=O)OC)C=C(C1)C | C15H23NO2
reactant | lithium hydroxide monohydrate | O.[OH-].[Li+]
reactant | diisopropylethylamine | 2 mmol, 350 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.63 mmol, 240 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran methanol water | 4 mL | O1CCCC1.CO.O
product | 3-{[Butyl(methyl)amino]methyl}-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-5-methylbenzamide dihydrochloride | Cl.Cl.C(CCC)N(C)CC=1C=C(C(=O)N[C@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)CC2=CC(=CC(=C2)F)F)C=C(C1)C | InChI=1S/C33H43F2N3O2.2ClH/c1-5-7-11-38(4)22-27-12-23(3)13-28(15-27)33(40)37-31(18-26-16-29(34)19-30(35)17-26)32(39)21-36-20-25-10-8-9-24(6-2)14-25;;/h8-10,12-17,19,31-32,36,39H,5-7,11,18,20-22H2,1-4H3,(H,37,40);2*1H/t31-,32+;;/m0../s1
